US07192982B2
A solution of 3-fluoro-4-methoxy-benzaldehyde (463 mg, 3 mmol), ethylene glycol (0.86 mL, 15 mmol) and PPTs (75 mg, 0.3 mmol) in toluene (15 mL) was heated at reflux with aceotropic removal of water for 6 hours. The solvent was evaporated and the residue was diluted with methylene chloride (20 mL), washed with water (2×10 mL) and dried (MgSO4). Concentration produced 2-(3-Fluoro-4-methoxy-phenyl)-[1,3]-dioxolane as a colorless oil (550 mg, 92%). 1H-NMR (CDCl3, 200.15 MHz): δ 7.24–7.15 (m, 2H), 6.92 (t, 1H, J=8.5), 5.71 (s, 1H), 4.10–3.98 (m, 4H), 3.86 (s, 3H).

reactant | 3-fluoro-4-methoxy-benzaldehyde | 3 mmol, 463 mg | FC=1C=C(C=O)C=CC1OC | C8H7FO2
reactant | ethylene glycol | 15 mmol, 0.86 mL | C(CO)O | C2H6O2
reactant | water | O | H2O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-Fluoro-4-methoxy-phenyl)-[1,3]-dioxolane | 550 mg, 92% | FC=1C=C(C=CC1OC)C1OCCO1 | C10H11FO3
